US06864265B2
3-(1-tert-butoxycarbonyl-Benzimidazol-2-yl)-propan-1-ol
To a solution of 3-(1H-Benzimidazol-2-yl)propan-1-ol (249 mg, 1.41 mmol) in DMF (7 mL) was added N,N-diisopropylethylamine (0.50 mL, 2.80 mmol) and di-tert-butyl dicarbonate (307 mg, 1.41 mmol). The resulting solution was allowed to stir for 16 hours at room temperature under N2 and then concentrated. The residues was diluted with 300-mL ethyl acetate, and washed with sat. NaHCO3, brine and dried over Na2SO4. Evaporation of the solvent and flash chromatograph of residue over silica gel, using 50% ethyl acetate in CH2Cl2, gave the title compound (372 mg, 95%) as pure white solid. 1H NMR (CDCl3) □1.72 (s, 9H), 2.14-2.22 (m, 2H), 3.37 (t, 2H, J=6.9 Hz), 3.80 (t, 2H, J=5.7), 7.28-7.34 (m, 2H), 7.66-7.70 (m, 1H), 7.87-7.91 (m, 1H); ES-MS m/z 277.1 (M+H).

reactant | 3-(1H-Benzimidazol-2-yl)propan-1-ol | 1.41 mmol, 249 mg | N1C(=NC2=C1C=CC=C2)CCCO | C10H12N2O
reactant | N,N-diisopropylethylamine | 2.80 mmol, 0.50 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | di-tert-butyl dicarbonate | 1.41 mmol, 307 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | 3-(1-tert-butoxycarbonyl-Benzimidazol-2-yl)-propan-1-ol | 372 mg, 95% | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC=C2)CCCO | C15H20N2O3
